US07141575B2
N-(2-Amino-6-(2-furyl)-5-nitropyrimidine-4-yl)-6-chloropyridine-3-carboxamide
A solution of 6-(2-furyl)-5-nitropyrimidine-2,4-diamine (500 mg, 2.26 mmol) in pyridine (10 mL) was treated with 6-chloronicotinoyl chloride (438 mg, 2.49 mmol), stirred for 16 h at 80° C., cooled to room temperature, poured into water (100 mL) and extracted with EtOAc (2×25 mL) and the combined organic phase was dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2; isohexane:EtOAc (3:2)] to give the title compound (430 mg, 82%) as a yellow solid; NMR δH (400 MHz, DMSO) 11.14 (1H, s), 8.86 (1H, d, J 2.5 Hz), 8.27 (1H, dd, J 8.5, 2.5 Hz), 7.93 (1H, m), 7.77 (2H, br s), 7.65 (1H, d, J 7.5 Hz), 7.09 (1H, d, J 4.5 Hz), 6.72–6.70 (1H, m); Retention time 2.41 min.

reactant | 6-(2-furyl)-5-nitropyrimidine-2,4-diamine | 2.26 mmol, 500 mg | O1C(=CC=C1)C1=C(C(=NC(=N1)N)N)[N+](=O)[O-] | C8H7N5O3
reactant | 6-chloronicotinoyl chloride | 2.49 mmol, 438 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | water | 100 mL | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-Amino-6-(2-furyl)-5-nitropyrimidine-4-yl)-6-chloropyridine-3-carboxamide | 430 mg, 82% | NC1=NC(=C(C(=N1)NC(=O)C=1C=NC(=CC1)Cl)[N+](=O)[O-])C=1OC=CC1 | C14H9ClN6O4
